US07326791B2
rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4-hydroxypiperazin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1d from rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, 4-hydroxypiperazine, PFTU, and diisopropylethylamine in DMSO at ambient temperature. HPLC-MS results: retention time: 3.80 minutes; C21H21Cl2N5O3 (462.34); mass spectrum: (M−H)−=461/463/465 (chlorine isotope).

reactant | rac.-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)NC(C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | 4-hydroxypiperazine | ON1CCNCC1 | C4H10N2O
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chlorine | ClCl | Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | rac.-3-chloro-N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-4-(4-hydroxypiperazin-1-ylcarbonyl)benzamide | ClC=1C=C(C(=O)NC(C)C2=NC3=C(N2)C=CC(=C3)Cl)C=CC1C(=O)N1CCN(CC1)O | C21H21Cl2N5O3
